US05990142
22B 4-[4-(4-Fluorophenyl)butoxy]benzaldehyde
Following the process described in example 18 (point A), starting from 4-hydroxybenzaldehyde and 4-(4-fluorophenyl)-1-butanol, the title compound was prepared (43% yield).

reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-(4-fluorophenyl)-1-butanol | FC1=CC=C(C=C1)CCCCO | C10H13FO
product | 4-[4-(4-Fluorophenyl)butoxy]benzaldehyde | 43% yield | FC1=CC=C(C=C1)CCCCOC1=CC=C(C=O)C=C1 | C17H17FO2
